US08022205B2
4-{2-[Bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-iodo-phenyl)-amide
To a dichloroethane solution (10 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (540 mg), DMAP (12.2 mg) and 1-iodo-3-isocyanato-benzene (490 mg) were added, followed by refluxing for 17 hours. This was cooled to room temperature, and dichloromethane (40 ml) was added. After washing with saturated aqueous ammonium chloride solution (30 ml), the organic layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off under reduced pressure, followed by silica gel column chromatography (hexane/dichloromethane/ethyl acetate=4/4/1 to 1/2/1), to obtain the desired compound as a crude product (404 mg, 51%).

reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 540 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 1-iodo-3-isocyanato-benzene | 490 mg | IC1=CC(=CC=C1)N=C=O | C7H4INO
catalyst | DMAP | 12.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-{2-[Bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-iodo-phenyl)-amide | IC=1C=C(C=CC1)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C37H37IN8O4
